US03965173
A process for preparing p-(2-{5-chloro-2-methoxybenzamido}ethyl)-benzene sulfonamide which comprises the steps of methylating 5-chlorosalicylic acid to methyl-5-chloro-2-methoxybenzoate, treating methyl-5-chloro-2-methoxybenzoate with phenethylamine to obtain N-phenethyl-5-chloro-2-methoxybenzamide, subjecting said N-phenethyl-5-chloro-2-methoxybenzamide to chlorosulfonation and aminolysis to yield p-(2-{5-chloro-2-methoxybenzamido}ethyl)-benzene sulfonamide.

reactant | p-(2-{5-chloro-2-methoxybenzamido}ethyl)-benzene sulfonamide | ClC=1C=CC(=C(C(=O)NCCC2=CC=C(C=C2)S(=O)(=O)N)C1)OC | C16H17ClN2O4S
reactant | 5-chlorosalicylic acid | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | methyl-5-chloro-2-methoxybenzoate | COC(C1=C(C=CC(=C1)Cl)OC)=O | C9H9ClO3
reactant | phenethylamine | C(CC1=CC=CC=C1)N | C8H11N
product | N-phenethyl-5-chloro-2-methoxybenzamide | C(CC1=CC=CC=C1)NC(C1=C(C=CC(=C1)Cl)OC)=O | C16H16ClNO2
